US06797708B2
Ethyl 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}-2-fluorobenzoate (0.06 g, 0.1 mmol), THF (0.5 mL), MeOH (0.5 mL), and 1N NaOH (0.5 mL) were stirred together overnight. Solvents were removed and the resulting residue was taken up in water. The solution was acidified with 1N HCl and extracted with ethyl acetate. The extract was dried over sodium sulfate, and evaporated. The resulting residue was triturated with a mixture of ether and hexanes to give 0.06 g of 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}-2-fluorobenzoic acid as an off-white solid; mp 132-135° C.; MS (ESI) m/z 729.74 ((M−H)−); HRMS: calcd for C39H33Cl2FN2O5S, 730.1471; found (ESI+), 731.15514.

reactant | Ethyl 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}-2-fluorobenzoate | 0.1 mmol, 0.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC(=C(C(=O)OCC)C=C1)F)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C41H37Cl2FN2O5S
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}-2-fluorobenzoic acid | 0.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC(=C(C(=O)O)C=C1)F)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C39H33Cl2FN2O5S
